US07655670B2
4-[(2-Bromo-phenyl)-cyclohexylmethyl-carbamoyl]-piperidine-1-carboxylic acid tert-butyl ester
4-(2-Bromo-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester (1.0 g, 2.60 mmol) was dissolved in dry N,N-dimethylformamide (10.0 mL). To the reaction mixture was then added at 0° C. sodium hydride (60% in mineral oil, 127.3 mg, 3.18 mmol) under nitrogen atmosphere and the reaction mixture was stirred at 0° C. for one hour. To the reaction mixture was then added at 0° C., bromomethyl-cyclohexane (0.55 g, 3.13 mmol). The reaction mixture was stirred at 0° C. for one hour, then at room temperature under nitrogen atmosphere for 18 hours. The reaction mixture was then added into an excess of water-ice and a solid precipitated. The solid was filtered by suction, washed with water and dried to yield a crude solid. The crude solid was purified via flash chromatography (25% ethyl acetate/hexanes) to yield the title compound as a solid.

reactant | 4-(2-Bromo-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.60 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC1=C(C=CC=C1)Br)=O | C17H23BrN2O3
reactant | sodium hydride | 3.18 mmol, 127.3 mg | [H-].[Na+]
reactant | bromomethyl-cyclohexane | 3.13 mmol, 0.55 g | BrCC1CCCCC1 | C7H13Br
solvent | N,N-dimethylformamide | 10.0 mL | CN(C=O)C | C3H7NO
product | 4-[(2-Bromo-phenyl)-cyclohexylmethyl-carbamoyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N(CC1CCCCC1)C1=C(C=CC=C1)Br)=O | C24H35BrN2O3
